US08729102B2
D) N-{(1S)-2-[4-(6-hydroxy-1,3-benzoxazol-2-yl)phenoxy]-1-methylethyl}acetamide
To a solution of 4-{[(2S)-2-(acetylamino)propyl]oxy}-N-(2,4-dihydroxyphenyl)benzamide (628 mg) and triphenylphosphine (716 mg) in THF (6.0 mL) was added dropwise a toluene solution (2.2 M, 1.24 mL) of diethyl azodicarboxylate, and the mixture was stirred under a nitrogen atmosphere at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (NH, ethyl acetate/methanol) to give the title compound (326 mg).

reactant | 4-{[(2S)-2-(acetylamino)propyl]oxy}-N-(2,4-dihydroxyphenyl)benzamide | 628 mg | C(C)(=O)N[C@H](COC1=CC=C(C(=O)NC2=C(C=C(C=C2)O)O)C=C1)C | C18H20N2O5
reactant | triphenylphosphine | 716 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | toluene | 2.2 M, 1.24 mL | C1(=CC=CC=C1)C | C7H8
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 6.0 mL | C1CCOC1 | C4H8O
product | N-{(1S)-2-[4-(6-hydroxy-1,3-benzoxazol-2-yl)phenoxy]-1-methylethyl}acetamide | 326 mg | OC1=CC2=C(N=C(O2)C2=CC=C(OC[C@H](C)NC(C)=O)C=C2)C=C1 | C18H18N2O4
